US05072029
A mixture of 310 mL (2.75 mol) of 3,4-dihydro-2H-pyran, 99.1 g (94 mL, 1.38 mol) of acrylic acid, 5 g of crosslinked poly(4-vinylpyridine hydrochloride) (Fluka Chemical Corp., catalog number 82803, 6 meq/g), and 0.5 g of phenothiazine was warmed until an exothermic reaction caused the temperature to rise to 99° C. An ice bath was used to cool the mixture to 65° C., and the mixture was stirred at 65° C. for 18 hours. After cooling to room temperature, the mixture was filtered to remove the catalyst. NMR analysis of the filtrate showed the presence of 2-tetrahydropyranyl acrylate and 3,4-dihydro-2H-pyran with little or no acrylic acid. The mixture was stirred with anhydrous sodium carbonate and calcium hydride for 1 hour. After removal of excess 3,4-dihydro-2H-pyran in a rotary evaporator, distillation over calcium hydride, anhydrous sodium carbonate, and phenothiazine gave 136.6 g of 2-tetrahydropyranyl acrylate, b.p. 66°-70° C. (3.2 mm).

reactant | 3,4-dihydro-2H-pyran | 2.75 mol, 310 mL | O1CCCC=C1 | C5H8O
reactant | acrylic acid | 1.38 mol, 94 mL, 99.1 g | C(C=C)(=O)O | C3H4O2
catalyst | poly(4-vinylpyridine hydrochloride) | 5 g | C=CC1=CC=NC=C1.Cl
catalyst | phenothiazine | 0.5 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 2-tetrahydropyranyl acrylate | 136.6 g | C(C=C)(=O)OC1OCCCC1 | C8H12O3
